US04888439
N-(2,6,10,14-tetramethyl-18-oxo-2,6,10,14-nonadecatetraenoyl)pyrrolidine
Starting materials: 2,6,10,14-tetramethyl-18-oxo-2,6,10,14-nonadecatetraenoic acid and pyrrolidine.

reactant | 2,6,10,14-tetramethyl-18-oxo-2,6,10,14-nonadecatetraenoic acid | CC(C(=O)O)=CCCC(=CCCC(=CCCC(=CCCC(C)=O)C)C)C | C23H36O3
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | N-(2,6,10,14-tetramethyl-18-oxo-2,6,10,14-nonadecatetraenoyl)pyrrolidine | CC(C(=O)N1CCCC1)=CCCC(=CCCC(=CCCC(=CCCC(C)=O)C)C)C | C27H43NO2
